* CDL Netlist generated by OpenROAD

*.BUSDELIMITER [

.SUBCKT clock_gating clk_in clk_out enable test_enable
X_1_ net3 net2 VSS VSS VDD VDD _0_ sky130_fd_sc_hd__or2_0
X_2_ gen_latch.latch_out net1 VSS VSS VDD VDD net4 sky130_fd_sc_hd__and2_1
Xgen_latch.latch_out$_DLATCH_N_ _0_ net1 VSS VSS VDD VDD gen_latch.latch_out
+ sky130_fd_sc_hd__dlxtn_1
XTAP_TAPCELL_ROW_0_0 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_1 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_2 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_3 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_4 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_1_5 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_1_6 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_2_7 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_2_8 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_2_9 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_3_10 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_3_11 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_4_12 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_4_13 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_4_14 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_5_15 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_5_16 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_6_17 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_6_18 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_6_19 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_7_20 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_7_21 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_8_22 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_8_23 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_8_24 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_9_25 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_9_26 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_10_27 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_10_28 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_10_29 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_11_30 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_11_31 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_12_32 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_12_33 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_12_34 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_13_35 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_13_36 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_14_37 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_14_38 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_14_39 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_15_40 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_15_41 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_16_42 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_16_43 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_16_44 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_17_45 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_17_46 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_18_47 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_18_48 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_18_49 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_19_50 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_19_51 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_20_52 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_20_53 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_20_54 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_21_55 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_21_56 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_22_57 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_22_58 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_22_59 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_23_60 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_23_61 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_24_62 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_24_63 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_24_64 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_24_65 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_24_66 VSS VDD sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput1 clk_in VSS VSS VDD VDD net1 sky130_fd_sc_hd__clkbuf_1
Xinput2 enable VSS VSS VDD VDD net2 sky130_fd_sc_hd__clkbuf_1
Xinput3 test_enable VSS VSS VDD VDD net3 sky130_fd_sc_hd__clkbuf_1
Xoutput4 net4 VSS VSS VDD VDD clk_out sky130_fd_sc_hd__clkbuf_1
.ENDS clock_gating
